US07214715B2
Following the general procedure of EXAMPLE 766 and making non-critical variations but using 2-thiopheneboronic acid and methyl 3-bromo-5-methylbenzoate, methyl 3-methyl-5-(3-thienyl)benzoate is obtained.

reactant | 2-thiopheneboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | methyl 3-bromo-5-methylbenzoate | BrC=1C=C(C(=O)OC)C=C(C1)C | C9H9BrO2
product | methyl 3-methyl-5-(3-thienyl)benzoate | CC=1C=C(C(=O)OC)C=C(C1)C1=CSC=C1 | C13H12O2S
